US07371777B2
(4-Ethoxybenzyl)-tetrahydro-2-furancarboxylic acid
To a solution of 10.85 g methyl (4-ethoxybenzyl)-tetrahydro-2-furancarboxylate in 200 ml of ethanol was added 50 ml of 5N sodium hydroxide solution, and the mixture was stirred at room temperature overnight. The solvent was evaporated, and the residue was dissolved in 500 ml of ethyl acetate and 100 ml of 5N hydrochloric acid. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated. The residue was washed with diisopropyl ether, to give 8.74 g of the title compound.

reactant | methyl (4-ethoxybenzyl)-tetrahydro-2-furancarboxylate | 10.85 g | C(C)OC1=CC=C(CC2(OCCC2)C(=O)OC)C=C1 | C15H20O4
reactant | sodium hydroxide | 5N, 50 ml | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | (4-Ethoxybenzyl)-tetrahydro-2-furancarboxylic acid | 8.74 g | C(C)OC1=CC=C(CC2(OCCC2)C(=O)O)C=C1 | C14H18O4
